US06974639B2
In a 100 ml-three-necked flask, 4.91 g (20.0 mM) of 5-chloro-2-(benzo[b]thienyl)pyridine, 3.66 g (30.0 mM) of phenylboronic acid, 9.58 g (40.0 mM) of tripotassium phosphate hydrate, 3.2 mg (0.020 mM) of palladium (II) acetate, 11.9 mg (0.040 mM) of 2-ditert-butylphosphinobiphenyl and 60 ml of toluene were placed and refluxed under stirring for 24 hours at 100° C. under nitrogen stream. After the reaction, the reaction mixture was cooled on an ice bath to precipitate a crystal, which was then filtered out and washed with water. To the crystal, 25 ml of methanol was added and washed under stirring at room temperature, followed by recovery by filtration. The crystal was purified by silica gel column chromatography (eluent: chloroform) and recrystallized from a chloroform-methanol mixture solvent to obtain 1.17 g (Yield: 20.4%) of 2-(benzo[b]thienyl)-5-phenylpyridine (colorless crystal).

reactant | 5-chloro-2-(benzo[b]thienyl)pyridine | 20.0 mM, 4.91 g | ClC=1C=CC(=NC1)C1=CC2=C(S1)C=CC=C2 | C13H8ClNS
reactant | phenylboronic acid | 30.0 mM, 3.66 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | tripotassium phosphate hydrate | 40.0 mM, 9.58 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium (II) acetate | 0.020 mM, 3.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-ditert-butylphosphinobiphenyl | 0.040 mM, 11.9 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(benzo[b]thienyl)-5-phenylpyridine | 1.17 g, Yield: 20.4% | S1C2=C(C=C1C1=NC=C(C=C1)C1=CC=CC=C1)C=CC=C2 | C19H13NS
